US07842696B2
Na2CO3 (140 mg, 1.32 mmol) was added to a stirred solution of 5-chloro-pyrazine-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide (200 mg, 0.44 mmol) in DMF (3 mL). PdCl2 (dppf) (96 mg, 0.13 mmol) and phenyl boronic acid (64 mg, 0.52 mmol) were then added and the reaction mixture was heated at 90° C. overnight. The reaction mixture was filtered, filtrate was then diluted with water and the product was extracted with ethyl acetate. The organic layer was washed with saturated brine solution, dried over sodium sulphate and concentrated to afford 29 mg (13.3% yield) of 5-phenyl-pyrazine-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 93.2%. 1H NMR (CDCl3): δ 9.4 (d, 1H), 9.0 (d, 1H), 8.7-8.6 (m, 1H), 8.1-8.0 (m, 2H), 7.8-7.7 (d, 1H), 7.7-7.5 (m, 5H), 7.4-7.3 (d, 1H), 4.46-4.18 (m, 2H), 4.46-4.18 (m, 2H), 4.1-3.86 (m, 2H), 3.8-3.5 (m, 4H), 3.5-3.4 (m, 1H), 3.3-3.2 (m, 2H).

reactant | Na2CO3 | 1.32 mmol, 140 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-chloro-pyrazine-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 0.44 mmol, 200 mg | O=C(CNC(=O)C1=NC=C(N=C1)Cl)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C19H17ClF3N5O3
reactant | phenyl boronic acid | 0.52 mmol, 64 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2 | 0.13 mmol, 96 mg | Cl[Pd]Cl
product | 5-phenyl-pyrazine-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 29 mg, 13.3% yield | O=C(CNC(=O)C1=NC=C(N=C1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H22F3N5O3
